US04306097
Similarly, 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-methylcyclohex-2-enone was prepared as an oil (4.12 g., 77%) using 3-ethoxy-6-methyl-2-cyclohexen-1-one (1.98 g., 12.9 mmoles), magnesium (0.61 g., 25.7 mmoles) and 12.9 mmoles (5.0 g.) of 2-(3-benzyloxy-4-bromophenyl)-2-methyloctane.

reactant | 3-ethoxy-6-methyl-2-cyclohexen-1-one | 12.9 mmoles, 1.98 g | C(C)OC1=CC(C(CC1)C)=O | C9H14O2
reactant | magnesium | 25.7 mmoles, 0.61 g | [Mg] | Mg
reactant | 2-(3-benzyloxy-4-bromophenyl)-2-methyloctane | 12.9 mmoles, 5.0 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1Br)C(C)(CCCCCC)C | C22H29BrO
product | 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-methylcyclohex-2-enone | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1=CC(CCC1C)=O | C29H38O2
